US08835449B2
1-(1H-Benzotriazol-1-yl)-1-(3,3-difluoroazetidin-1-yl)methanimine
A mixture of 3,3-difluoroazetidine-1-carbonitrile (135 mg, 1.14 mmol) and benzotriazole (136 mg, 1.14 mmol) in 1,2-dichloroethane (0.2 mL) was heated to 80° C. under nitrogen for 30 min. A needle was inserted to facilitate evaporation of the solvent and the mixture was heated at 80° C. for 45 min. The resulting solids were washed with ether (2×3 mL) and dried under reduced pressure to give the title compound as an off-white solid (160 mg, 51%).

reactant | 3,3-difluoroazetidine-1-carbonitrile | 1.14 mmol, 135 mg | FC1(CN(C1)C#N)F | C4H4F2N2
reactant | benzotriazole | 1.14 mmol, 136 mg | N1N=NC2=C1C=CC=C2 | C6H5N3
solvent | 1,2-dichloroethane | 0.2 mL | ClCCCl | C2H4Cl2
product | 1-(1H-Benzotriazol-1-yl)-1-(3,3-difluoroazetidin-1-yl)methanimine | 160 mg, 51% | N1(N=NC2=C1C=CC=C2)C(=N)N2CC(C2)(F)F | C10H9F2N5
